US04532347
For the dialysis cell experiments, the Nafion* membrane was routinely prepared by boiling for 0.5 hr. in 10% nitric acid, then boiling briefly in distilled water. For the flow reactor, the membrane tubing was initially prepared by flushing both "tubes" with 10% nitric acid at 60°. Thereafter the reactor was flushed with feed (e.g. cyclohexane) and water (in the appropriate "tubes") at the conclusion of each reaction. For the reactions utilizing cyclohexane, flow in both "tubes" was provided by a calibrated syringe pump. For the reactions with cyclododecane, hydrocarbon flow was provided by pressuring a heated metal cylinder containing the molten ketone-hydrocarbon mixture to 5-10 psi with dry nitrogen, and allowing the mixture to exit through a dip tube and metering valve.

reactant | cyclohexane | C1CCCCC1 | C6H12
solvent | nitric acid | [N+](=O)(O)[O-] | HNO3
solvent | water | O | H2O
product | cyclododecane | C1CCCCCCCCCCC1 | C12H24
